US04435408
Using the procedure of Example 3, 1,3-dihydro-4-(piperidin-3-yl)-2H-indole-2-one and methyl iodide were reacted to obtain 1,3-dihydro-4-(1-methyl-piperidin-3-yl)-2H-indole-2-one which melted at 160° C. after crystallization from benzene.

reactant | 1,3-dihydro-4-(piperidin-3-yl)-2H-indole-2-one | N1CC(CCC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | methyl iodide | CI | CH3I
product | 1,3-dihydro-4-(1-methyl-piperidin-3-yl)-2H-indole-2-one | CN1CC(CCC1)C1=C2CC(NC2=CC=C1)=O | C14H18N2O
